data/mechanism_extracts/Tetrahedron/10.1016_j.tet.2021.132535.json
{"doi": "10.1016_j.tet.2021.132535", "journal": "Tetrahedron", "is_review": false, "rxn_class_summary": "Electroreductive linear dimerization of electron-deficient vinylarenes to 1,4-diarylbutanes in an undivided cell with carbon electrodes using n-Bu4NBr/CH3CN-DMF, where CH3CN serves as the H-atom source.", "mechanism_family": ["radical_cathodic", "radical_anion", "paired_electrolysis"], "electrochemical_role": "Cathodic single-electron reduction of the electron-deficient vinylarene generates a radical anion that adds to a second vinylarene; after H-atom abstraction from CH3CN the resulting carbanion is re-oxidized at the anode to a radical, which abstracts a second H from CH3CN to give the saturated dimer.", "key_intermediates": [{"name": "vinylarene radical anion (15a)", "smiles": null, "role": "reactive"}, {"name": "distonic radical anion from radical addition to second vinylarene (16a)", "smiles": null, "role": "reactive"}, {"name": "benzylic carbanion after H-atom transfer from CH3CN (17a)", "smiles": null, "role": "transient"}, {"name": "benzylic radical after anodic oxidation (18a)", "smiles": null, "role": "transient"}], "electron_flow": "Cathode reduces vinylarene 6a to radical anion 15a, which adds across another 6a to give distonic intermediate 16a; HAT from CH3CN furnishes carbanion 17a, which is oxidized at the anode to radical 18a; a second HAT from CH3CN delivers the 1,4-diarylbutane 12a.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Product 12a not detected under standard conditions with 2.0 equiv TEMPO, consistent with a radical intermediate."}, {"name": "D2O", "smiles": "[2H]O[2H]", "purpose": "isotope_label", "observation": "Addition of D2O (0.1 mL) gave 12a in 62% yield with no deuterium incorporation, indicating H does not come from water."}, {"name": "CD3CN", "smiles": "[2H]C([2H])([2H])C#N", "purpose": "isotope_label", "observation": "Replacing CH3CN with CD3CN gave [D]-12a in 60% yield with 100% D incorporation at the benzylic positions, demonstrating CH3CN is the H-atom source."}], "evidence_types_used": ["H/D_labeling", "intermediate_trap_TEMPO", "product_isotope_distribution"], "evidence_strength": "medium", "notes": "Authors note that other mechanistic pathways cannot be ruled out. Strong electron-withdrawing substituents favor reaction by stabilizing the intermediate anion 17a, consistent with the proposed cathodic reduction initiation. A cross-coupling variant (4-vinylpyridine 6y + acrylate 6aa → 12aa, 52%) is also demonstrated."}
